Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall down steps
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male presenting from outside hospital after falling
with right arm pain.  Patient endorses alcohol last night and
fell down approximately ___ stairs.  Had pain in his right
arm/shoulder and elbow.  Non-radiating. Worse with movement. At
outside hospital x-ray shows evidence of a proximal humerus
fracture.  Patient has large bruising over the area but no open
wound.  Additionally patient has long history of right elbow
surgery.  Patient had fracture which was repaired with screws 
but
in ___ screws were needed to be removed.  Has not been able to
get injury repaired since.  Other imaging at outside hospital
shows no other traumatic injuries.  Patient has long history of
alcohol withdrawal with seizures.

 
Past Medical History:
Etoh with prior withdrawal seizures 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
General: No acute distress, comfortable, GCS 15
Vitals: HR: 90 RR: 16 BP: 147/81 O2 sat: 100% Temp: 98.5 F

Right upper extremity:
- Skin intact
- Ecchymosis with mild edema over right upper arm
- Tender but soft right arm
- Painful range of motion to the elbow and shoulder, full and
painless range of motion to wrist and fingers.
- Gross deformity to the elbow
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse

Left upper extremity:
- Skin intact
- No deformity, erythema, edema, induration or ecchymosis 
- Soft, non-tender arm and forearm
- Full, painless AROM/PROM of shoulder, elbow, wrist, and digits
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse

Right lower extremity:
- Skin intact
- No deformity, erythema, edema, induration or ecchymosis
- Soft, non-tender thigh and leg
- Full, painless AROM/PROM of hip, knee, and ankle
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused

Left lower extremity:
- Skin intact
- No deformity, erythema, edema, induration or ecchymosis
- Soft, non-tender thigh and leg
- Full, painless AROM/PROM of hip, knee, and ankle
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused

 
Pertinent Results:
___ 05:45AM BLOOD WBC-6.1 RBC-3.09* Hgb-10.4* Hct-30.4* 
MCV-98 MCH-33.7* MCHC-34.2 RDW-11.9 RDWSD-42.7 Plt ___
___ 06:08AM BLOOD WBC-10.9* RBC-3.70* Hgb-12.7* Hct-35.6* 
MCV-96 MCH-34.3* MCHC-35.7 RDW-12.0 RDWSD-42.2 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD ___ PTT-27.9 ___
___ 05:45AM BLOOD Glucose-103* UreaN-18 Creat-0.8 Na-140 
K-3.8 Cl-101 HCO3-25 AnGap-14
___ 06:08AM BLOOD Glucose-106* UreaN-15 Creat-0.7 Na-138 
K-GREATER TH Cl-91* HCO3-11* AnGap-36*
___ 06:08AM BLOOD Lipase-20
___ 06:17AM BLOOD Glucose-94 Lactate-2.2* Na-141 K-4.1 
Cl-104 calHCO3-18*

IMAGING: 
Head and C-spine CT:
-No acute intracranial abnormality
-No cervical spine fracture

XR Right Shoulder 3 views, Humerus 2 views, Elbow 2 views
Impression:
-There is an acute fracture of the right proximal humerus with
cmminution, just below the surgical neck area and extending to
the surgical neck. No glenohumeral dislocation. Preserved AC
joint alignment.

___ 04:18AM BLOOD WBC-5.6 RBC-2.85* Hgb-9.7* Hct-28.3* 
MCV-99* MCH-34.0* MCHC-34.3 RDW-11.9 RDWSD-43.6 Plt ___
___ 04:18AM BLOOD Glucose-106* UreaN-17 Creat-0.8 Na-140 
K-3.8 Cl-101 HCO3-26 AnGap-13
___ 04:18AM BLOOD Calcium-8.4 Phos-3.6 Mg-2.___ male presenting with right arm pain after falling. 
Patient endorsed alcohol use the night before admission and fell 
down approximately ___ stairs. Patient had pain in his right 
arm/shoulder and elbow afterwards. Pain was non-radiating and 
worse with movement. At outside hospital x-ray showed evidence 
of a proximal humerus fracture. At admission, patient p/w large 
bruising over the area but no open wound. Other imaging at 
outside hospital showed no other traumatic injuries. Patient has 
long history of alcohol withdrawal with seizures.

#Right humerus fracture/elbow injury
Pt status post fall with a fracture to his proximal right 
humerus and chronic right elbow injury. Fracture is closed and 
did not require operative management per orthopedic surgery. 
Plan was for sling for comfort and pain management. 
-Patient is schedule for follow up with orthopedics as an 
outpatient.

#Alcohol withndrawal
Pt with h/o alcohol use disorder c/b withdrawal seizure, h/o 
detox/rehab admissions. Psychiatry consulted for alcohol 
withdrawal. Pt has been scoring on CIWA and received diazepam 
during admission. He is interested in sobriety and would like to 
f/u with AA and return to individual therapy upon d/c. He 
declined referral to inpatient detox or rehab program. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth Every 8 hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth Every 12 hours 
Disp #*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every ___ hours Disp 
#*30 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tab by mouth Every 12 hours Disp 
#*30 Tablet Refills:*0 
5.  Thiamine 100 mg PO DAILY Duration: 8 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Daily 
Disp #*7 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Fall
-Right proximal humerus fracture
-Right elbow dislocation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a fall down steps.  You 
sustained a right humerus fracture and a right elbow 
dislocation.  You were seen by the Orthopedic service who 
recommended a sling and special brace.  No surgery was 
indicated.  Your pain has been controlled with oral analgesia.  
You were evaluated by Occupational therapy and cleared for 
discharge home with the following recommendations:
 
Followup Instructions:
___